US07563787B2
N4-(5-methyl-1H-pyrazol-3-yl)-N6-phenyl-2-styrylpyrimidine-4,6-diamine
Example 82 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and aniline. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N4-(5-methyl-1H-pyrazol-3-yl)-N6-phenyl-2-styrylpyrimidine-4,6-diamine | CC1=CC(=NN1)NC1=NC(=NC(=C1)NC1=CC=CC=C1)C=CC1=CC=CC=C1 | C22H20N6
